US05591762
4'-[(2-n-Propyl-4-methyl-6-(5,6,7,8-tetrahydro-imidazo[1,2-a]pyridin-2-yl)-benzimidazol-1-yl)-methyl]-2-(pivaloyloxymethyloxycarbonyl)-biphenyl
Prepared analogously to Example 215 from 4'-[(2-n-propyl-4-methyl-6-(5,6,7,8-tetrahydro-imidazo[1,2-a]pyridin-2-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid and chloromethylpivalate in dimethylformamide.

reactant | 4'-[(2-n-propyl-4-methyl-6-(5,6,7,8-tetrahydro-imidazo[1,2-a]pyridin-2-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N=C1N(CCCC1)C2 | C32H32N4O2
reactant | chloromethylpivalate | ClCCC(C(=O)[O-])(C)C
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 4'-[(2-n-Propyl-4-methyl-6-(5,6,7,8-tetrahydro-imidazo[1,2-a]pyridin-2-yl)-benzimidazol-1-yl)-methyl]-2-(pivaloyloxymethyloxycarbonyl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OCOC(C(C)(C)C)=O)C=C(C=C2C)C=2N=C1N(CCCC1)C2 | C38H42N4O4
